US06420343B1
3,3-Dimethyl-3(4-Pyridin-3-yl-imidazol-1-yl)-propioaldehyde
To a solution of 4-pyridin-3-yl-imidazole (1 g) in THF (34 mL) was added acetic acid (1.6 mL) and 3-methyl-2-butenal (3.3 mL) and the resulting solution was heated under gentle reflux for 24 hours. THF was then removed in vacuo and the residue was purified on a Flash 75 (silica gel column made by Biotage Division of Dyax Corp, U.S.) long column eluting with MeOH—CH2Cl2 to give the title compound as slightly yellow oil.

reactant | 4-pyridin-3-yl-imidazole | 1 g | N1=CC(=CC=C1)C=1N=CNC1 | C8H7N3
reactant | acetic acid | 1.6 mL | C(C)(=O)O | C2H4O2
reactant | 3-methyl-2-butenal | 3.3 mL | CC(=CC=O)C | C5H8O
solvent | THF | 34 mL | C1CCOC1 | C4H8O
product | 3,3-Dimethyl-3(4-Pyridin-3-yl-imidazol-1-yl)-propioaldehyde | CC(CC=O)(N1C=NC(=C1)C=1C=NC=CC1)C | C13H15N3O
